US04165320
To a solution of 1-[3-(acetylthio)-2-methoxycarbonyl-methylpropanoyl]-L-proline tert-butyl ester (3.7 g) in methanol (60 ml), N sodium hydroxide (40 ml) is added. After four hours, the reaction mixture is diluted with water (100 ml) and extracted with ethyl acetate. The aqueous layer is acidified and extracted with ethyl acetate. This last ethyl acetate layer is dried and concentrated to dryness in vacuo. The residue is dissolved in a mixture of pyridine and acetic anhydride (3:1) and the solution is stored at room temperature overnight. The reaction mixture is diluted with ethyl acetate (200 ml) and washed with 10% potassium bisulfate. The organic layer is dried and concentrated to dryness in vacuo to yield 1-[3-(acetylthio)-2-carboxymethylpropanoyl]-L-proline tert-butyl ester.

reactant | 1-[3-(acetylthio)-2-methoxycarbonyl-methylpropanoyl]-L-proline tert-butyl ester | 3.7 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSC(C)=O)(C(=O)OC)C)=O)=O | C17H27NO6S
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 1-[3-(acetylthio)-2-carboxymethylpropanoyl]-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSC(C)=O)CC(=O)O)=O)=O | C16H25NO6S
